US08247377B2
Intermediate 31: 2-[(Difluoromethyl)oxy]-6-fluorobenzoic acid
To a solution of methyl 2-[(difluoromethyl)oxy]-6-fluorobenzoate (800 mg) in anhydrous dioxane (20 ml) was added a solution of lithium hydroxide (260 mg) in water (10 ml). It was stirred for 15 hours, evaporated, dissolved in water (25 ml) and extracted with ethyl acetate (25 ml) and ether (25 ml). The aqueous phase was acidified with 5M hydrochloric acid and extracted with ethyl acetate (2×25 ml). The combined organic phases were washed with water (10 ml) and saturated brine (10 ml), dried over Na2SO4 and evaporated to give an oil which crystallised (616.3 mg). It was triturated with heptane (ca. 10 ml) and filtered off to give the title compound (456 mg).

reactant | methyl 2-[(difluoromethyl)oxy]-6-fluorobenzoate | 800 mg | FC(OC1=C(C(=O)OC)C(=CC=C1)F)F | C9H7F3O3
reactant | lithium hydroxide | 260 mg | [OH-].[Li+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-[(Difluoromethyl)oxy]-6-fluorobenzoic acid | 456 mg | FC(OC1=C(C(=O)O)C(=CC=C1)F)F | C8H5F3O3
